US06660753B2
To a solution of 3-(5-fluoro-pyrid-2-yl)-5-[3-fluoro-5-(1H-tetraazol -5-yl)-phenyl]-1,2,4-oxadiazole (30mg, 0.092 mmol) in tetrahydrofuran (1 mL), 0.5 M diazomethane (1 mL, 0.5 mmol, ether) was added. The reaction was quenched with water and extracted with dichloromethane. The product was purified by column chromatography with 20% ethyl acetate in hexanes to give 6.7 mg (21.4%) of 5-[3-fluoro -5-(1-methyl-1H-tetraazol-5-yl)-phenyl]-3-(5-fluoro-pyrid-2-yl)-1,2,4-oxadiazole. 1H-NMR (CDCl3), δ (ppm): 8.87 (s, 1H), 8.70 (d, 1H), 8.29 (dd, 1H), 8.10 (m, 2H), 7.62 (dt, 1H), 4.46 (s, 3H).

reactant | 3-(5-fluoro-pyrid-2-yl)-5-[3-fluoro-5-(1H-tetraazol -5-yl)-phenyl]-1,2,4-oxadiazole | 0.092 mmol, 30mg | FC=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC(=C1)C1=NN=NN1)F | C14H7F2N7O
reactant | diazomethane | 0.5 mmol, 0.5 M, 1 mL | [N+](=[N-])=C | CH2N2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 5-[3-fluoro -5-(1-methyl-1H-tetraazol-5-yl)-phenyl]-3-(5-fluoro-pyrid-2-yl)-1,2,4-oxadiazole | 6.7 mg, 21.4% | FC=1C=C(C=C(C1)C1=NN=NN1C)C1=NC(=NO1)C1=NC=C(C=C1)F | C15H9F2N7O
